US05194430
Step b: α-tert-Butyl-β-methyl-D-aspartate acetic acid
Suspend β-methyl-D-aspartate hydrochloride (40 g, 0.22 mol) in tert-butyl acetate (1.5 L) and add perchloric acid (20.7 mL of a 20% solution, 0.24 mol). Stir at room temperature under an atmosphere of argon for 3 hours. Pour into saturated sodium hydrogen carbonate and add solid sodium hydrogen carbonate until the mixture is basic. Add ethyl ether and separate the organic phase. Extract the aqueous phases with ethyl ether, combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo to give the title compound as a clear oil (34 g).

reactant | β-methyl-D-aspartate hydrochloride | 0.22 mol, 40 g | Cl.CC([C@@H](N)C(=O)O)C(=O)O
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | tert-butyl acetate | 1.5 L | C(C)(=O)OC(C)(C)C | C6H12O2
product | α-tert-Butyl-β-methyl-D-aspartate acetic acid | 34 g | C(C)(=O)O.C(C)(C)(C)[C@@](N)(C(C(=O)O)C)C(=O)O | InChI=1S/C9H17NO4.C2H4O2/c1-5(6(11)12)9(10,7(13)14)8(2,3)4;1-2(3)4/h5H,10H2,1-4H3,(H,11,12)(H,13,14);1H3,(H,3,4)/t5?,9-;/m1./s1
